US07893058B2
Step 3: [4-(2-Morpholin-4-yl-ethoxy)-phenyl]-[5-(1H-pyrazol-4-yl)-imidazo[1,2-a]pyrazin-8-yl]amine
In the same way as described for Compound 178, step 4 using (5-bromo-imidazo[1,2-a]pyrazin-8-yl)-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-amine (113 mg, 0.27 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (105 mg, 0.541 mmol), 1.5M Na2CO3 (1.44 mL, 2.14 mmol), and Pd(PPh3)4 (0.78 g, 0.67 mmol) in dioxane (4.3 mL). Purification by silica gel column chromatography eluting with 96:4 DCM:NH3 (7M in MeOH) followed by trituration with diethyl ether, affords the title compound as a free base (0.071 g, 65%). LCMS: Rt 1.59 min (100%), m/z (APCI) 406 (M+H)+; 1H-NMR (400 MHz, d6-DMSO) δ (ppm). 2.40-2.60 (4H, m), 2.70-2.73 (2H, t), 3.61-3.63 (4H, m), 4.10 (2H, m), 6.94-6.97 (2H, d), 7.58 (1H, s), 7.74 (1H, s), 7.97 (2H, d), 8.06 (1H, s), 8.13 (1H, s), 8.41 (1H, s), 9.45 (1H, s), 13.41 (1H, br s).

reactant | (5-bromo-imidazo[1,2-a]pyrazin-8-yl)-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-amine | 0.27 mmol, 113 mg | BrC1=CN=C(C=2N1C=CN2)NC2=CC=C(C=C2)OCCN2CCOCC2 | C18H20BrN5O2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.541 mmol, 105 mg | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | Na2CO3 | 2.14 mmol, 1.5M, 1.44 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 4.3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.67 mmol, 0.78 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [4-(2-Morpholin-4-yl-ethoxy)-phenyl]-[5-(1H-pyrazol-4-yl)-imidazo[1,2-a]pyrazin-8-yl]amine | N1(CCOCC1)CCOC1=CC=C(C=C1)NC=1C=2N(C(=CN1)C=1C=NNC1)C=CN2 | C21H23N7O2
